US04008083
A mixture of 2.00 g poly(cinnamyl methacrylate/-1-naphthyl methacrylate), 1.50 g 1-naphthyl methacrylate, 0.25 g p-xylylene diacrylate, 0.40 g benzoin methyl ether, 0.05 g 20% nitrosocyclohexane dimer in 1-chloronaphthalene, and 3.00 g xylene was prepared. Poly(cinnamyl methacrylate/1-naphthyl methacrylate) was prepared by thermally copolymerizing equal parts of cinnamyl methacrylate and 1-naphthyl methacrylate in a benzene solution using an azonitrile initiator. The polymer was precipitated from solution and washed prior to use.

reactant | cinnamyl methacrylate | C(C(=C)C)(=O)OCC=CC1=CC=CC=C1 | C13H14O2
reactant | 1-naphthyl methacrylate | 1.50 g | C(C(=C)C)(=O)OC1=CC=CC2=CC=CC=C12 | C14H12O2
reactant | p-xylylene diacrylate | 0.25 g | C(C=C)(=O)OCC1=CC=C(C=C1)COC(C=C)=O | C14H14O4
reactant | benzoin methyl ether | 0.40 g | COC(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C15H14O2
reactant | nitrosocyclohexane | 0.05 g | N(=O)C1CCCCC1 | C6H11NO
solvent | 1-chloronaphthalene | ClC1=CC=CC2=CC=CC=C12 | C10H7Cl
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | xylene | 3.00 g | C=1(C(=CC=CC1)C)C | C8H10
product | cinnamyl methacrylate 1-naphthyl methacrylate | C(C(=C)C)(=O)OCC=CC1=CC=CC=C1.C(C(=C)C)(=O)OC1=CC=CC2=CC=CC=C12 | InChI=1S/C14H12O2.C13H14O2/c1-10(2)14(15)16-13-9-5-7-11-6-3-4-8-12(11)13;1-11(2)13(14)15-10-6-9-12-7-4-3-5-8-12/h3-9H,1H2,2H3;3-9H,1,10H2,2H3
